US08735406B2
Process of 9-methyl-2-(2-phenylethyl)-7,9-dihydro-8H-purine-8-one
To a mixture of 9-methyl-2-[(E)-2-phenylethenyl]-7,9-dihydro-8H-purine-8-one <the compound of Reference Example 3> (80 mg), N,N-dimethylformamide (2 ml) and ethanol (3 ml) was added 10% palladium on carbon (2 mg) and the mixture was stirred at room temperature under hydrogen atmosphere for 1 hour. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=100/0˜0/100) to give the title compound 47 mg.

reactant | 9-methyl-2-[(E)-2-phenylethenyl]-7,9-dihydro-8H-purine-8-one | CN1C2=NC(=NC=C2NC1=O)\C=C\C1=CC=CC=C1 | C14H12N4O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 2 mg | [Pd] | Pd
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 9-methyl-2-(2-phenylethyl)-7,9-dihydro-8H-purine-8-one | 47 mg | CN1C2=NC(=NC=C2NC1=O)CCC1=CC=CC=C1 | C14H14N4O
